US04268510
A solution of o-aminobenzyl alcohol (2.4 g.) in toluene (5 ml.) was stirred at ambient temperature while anhydrous chloral (2.0 ml.) was added dropwise. The mixture was stirred for 30 minutes, and evaporated to dryness to yield an oil, which was crystallised from aqueous ethanol to give 1,2-dihydro-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine, m.p. 90°-92° C.

reactant | o-aminobenzyl alcohol | 2.4 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | chloral | 2.0 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydro-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine | ClC(C1OCC2=C(N1)C=CC=C2)(Cl)Cl | C9H8Cl3NO
